US05185346
A solution of 13 parts of 6-(1H-imidazol-1-ylmethyl)-4-methyl-2(1H)-quinolinone in 55 parts of phosphoryl chloride was stirred for 1 hour at room temperature. After evaporation, the residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of acetonitrile and 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.75 parts (12.5%) of 2-chloro-6-(1H-imidazol-1-ylmethyl)-4-methylquinoline; mp. 120.6° C. (compound 24).

reactant | 6-(1H-imidazol-1-ylmethyl)-4-methyl-2(1H)-quinolinone | N1(C=NC=C1)CC=1C=C2C(=CC(NC2=CC1)=O)C | C14H13N3O
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-6-(1H-imidazol-1-ylmethyl)-4-methylquinoline | 12.5% | ClC1=NC2=CC=C(C=C2C(=C1)C)CN1C=NC=C1 | C14H12ClN3
